* Z:\mnt\design.r\spice\examples\2910.asc
XU1 N001 N002 N003 N004 N005 N006 N008 N009 0 N007 RST _RST NC_01 0 N010 Vcc LTC2910
R1 2.5V N004 39.2K
R2 0 N004 11K
R3 3.3V N003 54.9K
R4 0 N003 11K
R5 5V N002 88.7K
R6 0 N002 11K
R7 12V N001 226K
R8 0 N001 11K
R9 N007 N009 11K
R10 N009 -5V 107K
R11 N007 N008 11K
R12 N008 -3.3V 76.4K
R13 1.2V N006 12.7K
R14 0 N006 11K
R15 1.8V N005 24.9K
R16 0 N005 11K
V1 12V 0 PWL(0 0 1 12 9 12 10 10 11 10 12 12)
V2 5V 0 PWL(0 0 1 0 2 5 13 5 14 4 15 4 16 5)
V3 3.3V 0 PWL(0 0 2 0 3 3.3 17 3.3 18 2.2 19 2.2 20 3.3)
V4 2.5V 0 PWL(0 0 3 0 4 2.5 21 2.5 22 1.5 23 1.5 24 2.5)
V5 1.8V 0 PWL(0 0 4 0 5 1.8 25 1.8 26 0.8 27 0.8 28 1.8)
V6 1.2V 0 PWL(0 0 5 0 6 1.2 29 1.2 30 0.2 31 0.2 32 1.2)
V7 -3.3V 0 PWL(0 0 6 0 7 -3.3 33 -3.3 34 -2 35 -2 36 -3.3)
V8 -5V 0 PWL(0 0 7 0 8 -5 37 -5 38 -4 39 -4 40 -5 41 -5)
V9 Vcc 0 PWL(0 0 3.3 3.3 45 3.3 48.3 0)
R17 Vcc _RST 10K
R18 Vcc RST 10K
C1 N010 0 10n
.tran 50
.lib LTC2910.sub
.backanno
.end
